US07834019B2
250 g of tert-butyl hydrazinecarboxylate was added to toluene (3 L) solution of 280 g of phthalic anhydride. Using a Dean-Stark water separator, the reaction mixture was heated under reflux for 3 hours. This was cooled to room temperature, the formed solid was taken out through filtration to obtain 516 g of crude tert-butyl (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)carbamate.

reactant | tert-butyl hydrazinecarboxylate | 250 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | toluene | 3 L | C1(=CC=CC=C1)C | C7H8
reactant | phthalic anhydride | 280 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | water | O | H2O
product | tert-butyl (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)carbamate | 516 g | O=C1N(C(C2=CC=CC=C12)=O)NC(OC(C)(C)C)=O | C13H14N2O4
